US07034039B2
Tert-butyl[2-isobutyl-1-oxo-6-(5-oxo-4,5-dihydro-1,2,4-thiadiazol-3-yl)-4-phenyl-1,2-dihydro-3-isoquinolinyl]methylcarbamate (0.050 g, 0.10 mmol) was dissolved in tetrahydrofuran (3 ml) and a solution (2 ml) of 4N hydrogen chloride in ethyl acetate was added. The mixture was stirred at room temperature for 24 h. The reaction mixture was concentrated under reduced pressure and diisopropyl ether-ethyl acetate (2:1) was added to the residue to give 3-(aminomethyl)-2-isobutyl-6-(5-oxo-4,5-dihydro-1,2,4-thiadiazol-3-yl)-4-phenyl-1(2H)-isoquinolinone hydrochloride (0.041 g, 94%) as a pale-yellow powder.

reactant | Tert-butyl[2-isobutyl-1-oxo-6-(5-oxo-4,5-dihydro-1,2,4-thiadiazol-3-yl)-4-phenyl-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 0.10 mmol, 0.050 g | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)C1=NSC(N1)=O)=O)CC(C)C)=O | C27H30N4O4S
reactant | hydrogen chloride | 4N, 2 ml | Cl | ClH
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(aminomethyl)-2-isobutyl-6-(5-oxo-4,5-dihydro-1,2,4-thiadiazol-3-yl)-4-phenyl-1(2H)-isoquinolinone hydrochloride | 0.041 g, 94% | Cl.NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)C1=NSC(N1)=O)=O)CC(C)C | InChI=1S/C22H22N4O2S.ClH/c1-13(2)12-26-18(11-23)19(14-6-4-3-5-7-14)17-10-15(8-9-16(17)21(26)27)20-24-22(28)29-25-20;/h3-10,13H,11-12,23H2,1-2H3,(H,24,25,28);1H
